US06391874B1
(4-(2-Fluoro-benzyloxyl)-phenyl)-(6-(5-trifluoromethyl-1,3,4-oxadiazol-2-yl)-quinazolin-4-yl)-amine hydrochloride
The title compound was prepared according to Procedure A from 4-(2-fluoro-benzyloxy)aniline and 4-chloro-6-(5-trifluoromethyl-1,3,4-oxadiazol-2-yl)-quinazoline; δH [2H6]DMSO 11.80(1H,bs), 9.54(1H,s), 8.93(1H,s), 8.67(1H,dd), 8.14(1H,d), 7.67(2H,d), 7.59(1H,m), 7.46(1H,m), 7.29(2H,m), 7.19(2H,d), 5.23(2H,s); m/z (M+1+) 482.

reactant | 4-(2-fluoro-benzyloxy)aniline | FC1=C(COC2=CC=C(N)C=C2)C=CC=C1 | C13H12FNO
reactant | 4-chloro-6-(5-trifluoromethyl-1,3,4-oxadiazol-2-yl)-quinazoline | ClC1=NC=NC2=CC=C(C=C12)C=1OC(=NN1)C(F)(F)F | C11H4ClF3N4O
product | (4-(2-Fluoro-benzyloxyl)-phenyl)-(6-(5-trifluoromethyl-1,3,4-oxadiazol-2-yl)-quinazolin-4-yl)-amine hydrochloride | Cl.FC1=C(COC2=CC=C(C=C2)NC2=NC=NC3=CC=C(C=C23)C=2OC(=NN2)C(F)(F)F)C=CC=C1 | InChI=1S/C24H15F4N5O2.ClH/c25-19-4-2-1-3-15(19)12-34-17-8-6-16(7-9-17)31-21-18-11-14(5-10-20(18)29-13-30-21)22-32-33-23(35-22)24(26,27)28;/h1-11,13H,12H2,(H,29,30,31);1H
